US05652271
A mixture of 1-chloro-3-(dimethylamino)-2-methylpropane hydrochloride (200 g), thiourea (97.3 g) and ethanol (950 ml) was stirred and heated under reflux for 72 hours. The solution was allowed to cool and the solvent was removed in vacuo. The residue was dissolved in a small volume of ethanol and ether was added until the first permanent opalescence was observed. The mixture was stored at 4° C. for 16 hours. The solvent was removed in yacuo to afford a waxy/oily solid which was dried in vacuo over calcium chloride for 48 hours, then triturated with propan-2-ol. The resulting solid was collected by filtration, washed with propan-2-ol, and dried in vacuo to give S-[3-(dimethylamino)-2-methylpropyl]isothiourea dihydrochloride as a pale brown solid (90 g).

reactant | 1-chloro-3-(dimethylamino)-2-methylpropane hydrochloride | 200 g | Cl.ClCC(CN(C)C)C
reactant | thiourea | 97.3 g | NC(=S)N | CH4N2S
solvent | ethanol | 950 ml | C(C)O | C2H6O
product | S-[3-(dimethylamino)-2-methylpropyl]isothiourea dihydrochloride | 90 g | Cl.Cl.CN(CC(CSC(N)=N)C)C | InChI=1S/C7H17N3S.2ClH/c1-6(4-10(2)3)5-11-7(8)9;;/h6H,4-5H2,1-3H3,(H3,8,9);2*1H
